US08802678B2
2-cyano-N-(4-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}cyclohexyl)acetamide
To a solution of 43 mg (0.5 mmol) of cyanoacetic acid in 5 mL of dichloromethane stabilized on amylene are successively added 68 mg (0.5 mmol) of 1-hydroxybenzotriazole, 96 mg (0.5 mmol) of 3-ethyl-1-(3-dimethylaminopropyl)-carbodiimide hydrochloride and 0.21 mL (1.5 mmol) of triethylamine. The mixture is stirred for 15 minutes then 214 mg (0.5 mmol) of the 80%/20% trans/cis 4-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}cyclohexylamine dihydrochloride is added. The mixture is stirred overnight at room temperature.

reactant | cyanoacetic acid | 0.5 mmol, 43 mg | C(#N)CC(=O)O | C3H3NO2
reactant | 1-hydroxybenzotriazole | 0.5 mmol, 68 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-ethyl-1-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.5 mmol, 96 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | cis 4-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}cyclohexylamine dihydrochloride | Cl.Cl.FC(C=1C=C(C=CC1)N1CCN(CC1)CC[C@H]1CC[C@H](CC1)N)(F)F
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-cyano-N-(4-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}cyclohexyl)acetamide | C(#N)CC(=O)NC1CCC(CC1)CCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C22H29F3N4O
